US07897607B2
2-[(1-Ethylpropyl)amino]-5-mesityl-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
To a solution of 2-amino-5-mesityl-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (0.062 g, 0.209 mmol) in N,N-dimethylformamide (0.5 mL) was added sodium hydride (66% in oil, 0.016 g, 0.439 mmol), and the mixture was allowed to stir at room temperature for 25 minutes. 3-Bromopentane (0.055 mL, 0.439 mmol) twice at room temperature and sodium hydride (66% in oil, 0.016 g, 0.439 mmol) at 0° C. was added during the reaction, stirring at room temperature for 15 hours and at 60° C. for 52 hours. After cooling, the reaction mixture was diluted with ice-cold water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with hexane/ethyl acetate (4:1-2:1). The desired fractions were concentrated in vacuo. The residual crystals were washed with diisopropyl ether-hexane to give 0.019 g (25%) of the title compound.

reactant | 2-amino-5-mesityl-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.209 mmol, 0.062 g | NC=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O)C | C17H20N4O
reactant | sodium hydride | 0.439 mmol, 0.016 g | [H-].[Na+]
reactant | 3-Bromopentane | 0.439 mmol, 0.055 mL | BrC(CC)CC | C5H11Br
reactant | sodium hydride | 0.439 mmol, 0.016 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 2-[(1-Ethylpropyl)amino]-5-mesityl-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.019 g, 25% | C(C)C(CC)NC=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O)C | C22H30N4O
